US07691867B2
Pentafluorophenyl trifluoroacetate (0.325 g, 1.16 mmol) was added dropwise, at room temperature, to a stirred suspension of (4-{[7-(3-chloropropoxy)quinazolin-4-yl]amino}-1H-pyrazol-1-yl)acetic acid (0.300 g, 0.83 mmol) and pyridine (0.092 g, 1.16 mmol) in dimethylformamide (3 ml). After stirring for 5 minutes 2-fluoroaniline (0.184 g, 1.66 mmol) was added and the reaction stirred for 5 hours. The mixture was poured into 0.2N aqueous hydrochloric acid (25 ml) to give 2-(4-{[7-(3-chloropropoxy)quinazolin-4-yl]amino}-1H-pyrazol-1-yl)-N-(2-fluorophenyl)acetamide as a cream coloured solid: MS (+ve ESI): 455 (M+H)+.

reactant | Pentafluorophenyl trifluoroacetate | 1.16 mmol, 0.325 g | FC(C(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)(F)F | C8F8O2
reactant | (4-{[7-(3-chloropropoxy)quinazolin-4-yl]amino}-1H-pyrazol-1-yl)acetic acid | 0.83 mmol, 0.300 g | ClCCCOC1=CC=C2C(=NC=NC2=C1)NC=1C=NN(C1)CC(=O)O | C16H16ClN5O3
reactant | pyridine | 1.16 mmol, 0.092 g | N1=CC=CC=C1 | C5H5N
reactant | 2-fluoroaniline | 1.66 mmol, 0.184 g | FC1=C(N)C=CC=C1 | C6H6FN
reactant | hydrochloric acid | 0.2N, 25 ml | Cl | ClH
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-(4-{[7-(3-chloropropoxy)quinazolin-4-yl]amino}-1H-pyrazol-1-yl)-N-(2-fluorophenyl)acetamide | ClCCCOC1=CC=C2C(=NC=NC2=C1)NC=1C=NN(C1)CC(=O)NC1=C(C=CC=C1)F | C22H20ClFN6O2
